US06420381B1
Preparation of N-[1-butyl-4-[3-[3-(hydroxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-aminophenyl]urea:
To a solution of N-[1-butyl-4-[3-[3-(benzyloxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-tritylaminophenyl]urea (1.60 g, 1.74 mmol) in a mixture of acetone (20 ml) and methanol (20 ml) is added conc. hydrochloric acid (1 ml, 12 mmol) under ice-cooling, and the mixture is stirred at room temperature for 14 hours. The reaction solution is made basic by adding thereto aqueous ammonia under ice-cooling, and extracted with ethyl acetate. The organic layer is washed twice with aqueous sodium hydrogen carbonate solution, and the solvent is concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give the title compound (1.07 g, 1.58 mmol).

reactant | N-[1-butyl-4-[3-[3-(benzyloxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-tritylaminophenyl]urea | 1.74 mmol, 1.60 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCOCC1=CC=CC=C1)NC(=O)NC1=C(C=C(C=C1C(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C)=O | C60H63N5O4
reactant | hydrochloric acid | 12 mmol, 1 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | methanol | 20 ml | CO | CH4O
product | N-[1-butyl-4-[3-[3-(hydroxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-aminophenyl]urea | 1.58 mmol, 1.07 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCO)NC(=O)NC1=C(C=C(C=C1C(C)C)N)C(C)C)=O | C34H43N5O4
